US06610701B2
To a solution of 2,5-dichlorobenzonitrile (10 g, 58.1 mmol) in DMF (100 ml) is added cesium carbonate (22.7 g, 69.8 mmol) and 1,2,4-triazole (4.8 g, 69.8 mmol) and the reaction mixture is stirred at 65° C. for 5.5 h, at 75° C. for 16 h, at 85° C. for 7 h. More 1,2,4-triazole (5 g) is added and the reaction mixture is stirred at 85° C. for 18 h and at 100° C. for 4 h. After cooling to room temperature, the mixture is diluted with water and extracted with EtOAc 3 times. The combined organic layer is washed with aqueous LiCl, dried on sodium sulfate, concentrated in vacuo to give 5-Chloro-2-[1,2,4]triazol-1-yl-benzonitrile as a white solid which is used in the next step without further purification.

reactant | 2,5-dichlorobenzonitrile | 58.1 mmol, 10 g | ClC1=C(C#N)C=C(C=C1)Cl | C7H3Cl2N
reactant | cesium carbonate | 69.8 mmol, 22.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2,4-triazole | 69.8 mmol, 4.8 g | N1N=CN=C1 | C2H3N3
reactant | 1,2,4-triazole | 5 g | N1N=CN=C1 | C2H3N3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Chloro-2-[1,2,4]triazol-1-yl-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1N=CN=C1 | C9H5ClN4
